US07166598B2
To a solution of (2R)-2-(3-tert-butyldiphenylsilyloxy-4-methylbenzyl)-4-[2-[(2S)-2-(methoxymethyl)morpholino]ethyl]-piperazine (9.38 g) in ethyl acetate (40 ml) was added 4N hydrogen chloride in ethyl acetate (11.7 ml) at 0° C. and then added dropwise hexane (200 ml). After stirring at room temperature for 2 hours, the mixture was cooled at 0° C. The resulting precipitates were collected by filtration, washed with hexane, and dried under reduced pressure to give (2R)-2-(3-tert-butyldiphenylsilyloxy-4-methylbenzyl)-4-[2-[(2S)-2-(methoxymethyl)morpholino]ethyl]piperazine trihydrochloride (10.75 g) as a powder.

reactant | (2R)-2-(3-tert-butyldiphenylsilyloxy-4-methylbenzyl)-4-[2-[(2S)-2-(methoxymethyl)morpholino]ethyl]-piperazine | 9.38 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC=1C=C(C[C@H]2NCCN(C2)CCN2C[C@H](OCC2)COC)C=CC1C | C36H51N3O3Si
reactant | hydrogen chloride | 4N | Cl | ClH
reactant | hexane | 200 ml | CCCCCC | C6H14
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 11.7 ml | C(C)(=O)OCC | C4H8O2
product | (2R)-2-(3-tert-butyldiphenylsilyloxy-4-methylbenzyl)-4-[2-[(2S)-2-(methoxymethyl)morpholino]ethyl]piperazine trihydrochloride | 10.75 g | Cl.Cl.Cl.[Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC=1C=C(C[C@H]2NCCN(C2)CCN2C[C@H](OCC2)COC)C=CC1C | InChI=1S/C36H51N3O3Si.3ClH/c1-29-16-17-30(24-31-26-38(19-18-37-31)20-21-39-22-23-41-32(27-39)28-40-5)25-35(29)42-43(36(2,3)4,33-12-8-6-9-13-33)34-14-10-7-11-15-34;;;/h6-17,25,31-32,37H,18-24,26-28H2,1-5H3;3*1H/t31-,32+;;;/m1.../s1
